US06262287B1
Pent-4-enoic Acid Phenethyl Ester
According to the same procedure, undec-10-enoic acid phenethyl ester was prepared from phenylethyl alcohol and 10-undecenoic acid.

reactant | undec-10-enoic acid phenethyl ester | C(CC1=CC=CC=C1)OC(CCCCCCCCC=C)=O | C19H28O2
reactant | phenylethyl alcohol | C1(=CC=CC=C1)CCO | C8H10O
reactant | 10-undecenoic acid | C(CCCCCCCCC=C)(=O)O | C11H20O2
product | Pent-4-enoic Acid Phenethyl Ester | C(CC1=CC=CC=C1)OC(CCC=C)=O | C13H16O2
